US04565870
200 parts of a 17.5% strength by weight solution of γ-chlorobutyraldehyde in xylene, 212 parts of isopropanol, 52 parts of 3-(β-aminoethyl)-indole and 388 parts of a 10% strength by weight aqueous sulfuric acid were stirred for 5 hours at 82° C., the mixture was cooled and the product was filtered off under suction and washed with 100 parts of isopropanol. 36 parts (31.6%) of 1-(γ-chloropropyl)-1,2,3,4-tetrahydro-β-carboline hydrochloride of melting point 216°-220° C. were obtained (cf. Example 1).

reactant | γ-chlorobutyraldehyde | ClCCCC=O | C4H7ClO
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | 3-(β-aminoethyl)-indole | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(γ-chloropropyl)-1,2,3,4-tetrahydro-β-carboline hydrochloride | 31.6% | Cl.ClCCCC1NCCC=2C3=CC=CC=C3NC12 | InChI=1S/C14H17ClN2.ClH/c15-8-3-6-13-14-11(7-9-16-13)10-4-1-2-5-12(10)17-14;/h1-2,4-5,13,16-17H,3,6-9H2;1H
